US08865713B2
Step E: 2,6-dichloro-1-(2-methoxy-ethoxymethyl)-5-m-tolylsulfanyl-1H-benzoimidazole.
A solution of 6-chloro-1-(2-methoxy-ethoxymethyl)-5-m-tolylsulfanyl-1H-benzoimidazole (1.89 g, 5.21 mmol) and THF (13 mL) was cooled to −78° C. in an acetone/dry ice bath. Buthyllithium (2.2M solution in hexanes, 2.60 mL, 5.73 mmol) was added dropwise and the reaction mixture was stirred at −78° C. for 1 h. (Lithium diisopropylamide as a 2.0M solution in THF/heptane/ethylbenzene can also be used as a base.) A solution of N-chlorosuccinimide (765 mg, 5.73 mmol) and THF (11.5 mL) was added. The reaction mixture was warmed to 23° C. and stirred for 2 h. Saturated aqueous NH4Cl (20 mL) was added and the crude product was extracted into CH2Cl2 (3×75 mL). The organic layers were dried, filtered, and concentrated under reduced pressure. The residue was purified (FCC) (0-100% EtOAc/hexanes) to provide the titled compound (1.46 g, 71%) as a 1:1 mixture of regioisomers. MS (ESI/CI): mass calcd. for C18H18Cl2N2O2S, 396.0; m/z found, 397.0 [M+H]+. 1H NMR (500 MHz, CDCl3): 7.74 (s, 1H), 7.57 (s, 1H), 7.40 (s, 1H), 7.29 (s, 1H), 7.23-7.18 (m, 3H), 7.18-7.14 (m, 2H), 7.12-7.07 (m, 3H), 5.58 (s, 2H), 5.48 (s, 2H), 3.64-3.60 (m, 2H), 3.54-3.48 (m, 4H), 3.43-3.40 (m, 2H), 3.34 (s, 3H), 3.29 (s, 3H), 2.30 (s, 6H).

reactant | 6-chloro-1-(2-methoxy-ethoxymethyl)-5-m-tolylsulfanyl-1H-benzoimidazole | 5.21 mmol, 1.89 g | ClC=1C(=CC2=C(N(C=N2)COCCOC)C1)SC=1C=C(C=CC1)C | C18H19ClN2O2S
reactant | Lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | N-chlorosuccinimide | 5.73 mmol, 765 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | THF heptane ethylbenzene | C1CCOC1.CCCCCCC.C(C)C1=CC=CC=C1
solvent | THF | 11.5 mL | C1CCOC1 | C4H8O
solvent | THF | 13 mL | C1CCOC1 | C4H8O
product | 2,6-dichloro-1-(2-methoxy-ethoxymethyl)-5-m-tolylsulfanyl-1H-benzoimidazole | 1.46 g, 71% | ClC1=NC2=C(N1COCCOC)C=C(C(=C2)SC=2C=C(C=CC2)C)Cl | C18H18Cl2N2O2S
